US05091394
a) Disodium 5-carboxy-2-chlorobenzenesulfinate
is obtained from 186 g of 5-carboxy-2-chlorobenzenesulfinic acid, prepared by reduction of 261 g of 5-carboxy-2-chlorobenzenesulfonyl chloride with 157 g of sodium sulfite in 700 ml of water at 70° C. at pH 9-10 and subsequent acidification using HCl, by neutralization with 67.6 g of caustic soda in 2 liters of water, removal the latter by distillation and crystallization of the residue with acetone.

reactant | 5-carboxy-2-chlorobenzenesulfonyl chloride | 261 g | C(=O)(O)C=1C=CC(=C(C1)S(=O)(=O)Cl)Cl | C7H4Cl2O4S
reactant | sodium sulfite | 157 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 700 ml | O | H2O
product | Disodium 5-carboxy-2-chlorobenzenesulfinate | C(=O)(O)C=1C=CC(=C(C1)S(=O)[O-])Cl.[Na+].[Na+].C(=O)(O)C=1C=CC(=C(C1)S(=O)[O-])Cl | InChI=1S/2C7H5ClO4S.2Na/c2*8-5-2-1-4(7(9)10)3-6(5)13(11)12;;/h2*1-3H,(H,9,10)(H,11,12);;/q;;2*+1/p-2
